US06465687B1
3,5-Dibromo -4-(4-hydroxy-3-isopropylphenoxy)benzylalcohol
A mixture of 3,5-dibromo-4-(4-hydroxy-3-isopropylphenoxy)benzoic acid (Example 1(c) (1.0 g, 3.3 mmol), tetrabutylammonium boronate (2.6 g, 9.9 mmol) and ethylbromide (1.0 ml, 13.2 mmol) in 25 ml of CH2Cl2 and 10 ml of tetrahydrofuran was stirred at room temperature over night. The reaction mixture was treated with 1M HCl and extracted several times with EtOAc. The combined organic phases were washed once with water followed by a saturated solution of NaCl. After drying over MgSO4, filtration and evaporation, the residue was purified by column chromathography (silica gel, 7:3 p-ether/EtOAc). This gave 0.922 g (98%) of 3,5-dibromo-4-(4-hydroxy-3-isopropylphenoxy) benzyl-alcohol.

reactant | 3,5-dibromo-4-(4-hydroxy-3-isopropylphenoxy)benzoic acid | BrC=1C=C(C(=O)O)C=C(C1OC1=CC(=C(C=C1)O)C(C)C)Br | C16H14Br2O4
reactant | tetrabutylammonium boronate | 9.9 mmol, 2.6 g | B([O-])[O-].C(CCC)[N+](CCCC)(CCCC)CCCC.C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | ethylbromide | 13.2 mmol, 1.0 ml | C(C)Br | C2H5Br
reactant | HCl | 1M | Cl | ClH
solvent | CH2Cl2 | 25 ml | C(Cl)Cl | CH2Cl2
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 3,5-Dibromo -4-(4-hydroxy-3-isopropylphenoxy)benzylalcohol | BrC=1C=C(CO)C=C(C1OC1=CC(=C(C=C1)O)C(C)C)Br | C16H16Br2O3
